US07812022B2
Step B: 2,2,2-Trifluoro-N-{2-fluoro-5-[(trimethylsilyl)ethynyl]phenyl}acetamide
To an oven-dried flask under N2 was added N-(5-bromo-2-fluorophenyl)-2,2,2-trifluoroacetamide (750 mg, 2.62 mmol), anhydrous degassed THF (100 mL), dichlorobis(triphenylphosphine)palladium(II) (230 mg, 0.33 mmol), copper(I) iodide (38 mg, 0.20 mmol), and trimethylsilylacetylene (640 mg, 6.53 mmol). Next, triethylamine (2.64 g, 26 mmol) was added dropwise and the resulting mixture was heated at 60° C. overnight. The crude reaction mixture was adsorbed to silica gel and purified by column chromatography (0-10% EtOAc in hexanes) to afford the desired product (0.67 g, 84%) as an off white solid. ESIMS (M−H)−=302.

reactant | N-(5-bromo-2-fluorophenyl)-2,2,2-trifluoroacetamide | 2.62 mmol, 750 mg | BrC=1C=CC(=C(C1)NC(C(F)(F)F)=O)F | C8H4BrF4NO
reactant | trimethylsilylacetylene | 6.53 mmol, 640 mg | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 26 mmol, 2.64 g | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.33 mmol, 230 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.20 mmol, 38 mg | [Cu]I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-N-{2-fluoro-5-[(trimethylsilyl)ethynyl]phenyl}acetamide | 0.67 g, 84% | FC(C(=O)NC1=C(C=CC(=C1)C#C[Si](C)(C)C)F)(F)F | C13H13F4NOSi
